US09056859B2
5-[2-(4-{[3-fluoro-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1 (3H)-one
To a solution of [3-fluoro-4-(1H-tetrazol-1-yl)phenyl]acetic acid (0.68 mmol) in 10 mL of anhydrous DCM was added 5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one (191 mg, 0.68 mmol), EDC (200 mg, 1.01 mmol), HOBt (136 mg, 1.01 mmol), TEA (341 mg, 3.38 mmol) was stirred at ambient temperature overnight. The mixture was added DCM, washed with brine, the organic layer was dried over anhydrous Na2SO4 and concentrated. The residue was purified via prep-TLC to give the title compound. 1H-NMR (400 MHz, CDCl3) δ ppm 8.84 (s, 1H), 7.82 (d, J=7.8 Hz, 1H), 7.31˜737 (m, 3H), 7.11˜7.19 (m, 2H), 5.29 (s, 2H), 3.59 (s, 2H), 3.49˜3.52 (m, 2H), 3.37˜3.4 (m, 2H), 2.89˜2.93 (m, 2H), 2.64˜2.68 (m, 2H), 2.4˜2.45 (m, 4H).

reactant | [3-fluoro-4-(1H-tetrazol-1-yl)phenyl]acetic acid | 0.68 mmol | FC=1C=C(C=CC1N1N=NN=C1)CC(=O)O | C9H7FN4O2
reactant | 5-(2-piperazin-1-ylethyl)-2-benzofuran-1(3H)-one | 0.68 mmol, 191 mg | N1(CCNCC1)CCC1=CC2=C(C(OC2)=O)C=C1 | C14H18N2O2
reactant | EDC | 1.01 mmol, 200 mg
reactant | HOBt | 1.01 mmol, 136 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 5-[2-(4-{[3-fluoro-4-(1H-tetrazol-1-yl)phenyl]acetyl}piperazin-1-yl)ethyl]-2-benzofuran-1 (3H)-one | FC=1C=C(C=CC1N1N=NN=C1)CC(=O)N1CCN(CC1)CCC1=CC2=C(C(OC2)=O)C=C1 | C23H23FN6O3
